psp103 nch output
*
vd  d 0 dc 0.05
vg  g 0 dc 0.0
vs  s 0 dc 0.0
vb  b 0 dc 0.0
nm1  d g s b nch
+l=0.1u
+w=1u
+sa=0.0e+00
+sb=0.0e+00
+absource=1.0e-12
+lssource=1.0e-06
+lgsource=1.0e-06
+abdrain=1.0e-12
+lsdrain=1.0e-06
+lgdrain=1.0e-06
+mult=1.0e+00
*
.option temp=21

.include Modelcards/psp103_nmos-2.mod
*.include Modelcards/psp103_nmos.mod

.control
* pre_osdi ../osdi_libs/psp103.osdi
dc vd 0 2.0 0.05 vg 0 1.5 0.25
plot i(vs)
dc vg 0 1.5 0.05 vb 0 -3.0 -1
plot i(vs)
.endc

.end
